US07888364B2
To 110 mg of methyl 6-(2-chloro-5-(2-methyl-6-(trifluoromethyl)nicotinamido)phenyl)nicotinate at 0° C. in 5 mL of EtOH was slowly added 148 mg of Sodium Borohydride. The reaction was subsquently refluxed for 1 hour until complete, quenched with water and extracted with Ethyl Acetate. The organic layer was dried over Magnesium Sulfate, filtered, concentrated and purified by reverse phase HPLC to give pure N-(4-chloro-3-(5-(hydroxymethyl)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide. MS (Q1) 422.1 (M)+.

reactant | methyl 6-(2-chloro-5-(2-methyl-6-(trifluoromethyl)nicotinamido)phenyl)nicotinate | 110 mg | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C(=O)OC)C=C1 | C21H15ClF3N3O3
reactant | Sodium Borohydride | 148 mg | [BH4-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-(4-chloro-3-(5-(hydroxymethyl)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)CO | C20H15ClF3N3O2
